US07259266B2
6-Chloro-5-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To the solution of ethyl 6-chloro-5-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid (1.1 g, 3.4 mmol) in 5 mL of THF was added a solution of lithium hydroxide hydrate (0.72 g, 17 mmol) in 5 mL of water. To the resulting mixture was added 5 mL of ethanol. The resulting solution was heated to reflux over three hrs. The reaction turned red. After cooling to room temperature, the volatiles were removed, the residue was diluted with water. The resulting solution was acidified at 0° C. with ice cold dilute hydrochloric acid. The product was then extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate. After removing the solvent, the residue was purified on reverse phase HPLC. It gave a yellow solid (0.3 g). LC-MS(ES+) 297.2(M+1, 100). 1H NMR (CDCl3/CD3OD/400 MHz) 7.85(s, 1H), 7.24(m, 1H), 6.69(d, J=8.8 Hz, 1H), 5.63(q, J=6.4 Hz, 1H). 19F (CDCl3/CCD3OD/400 MHz) −78.94(d, J=6.8 Hz), −111.92(d, J=7.5 Hz). 13C NMR(CDCl3/CD3OD/400 MHz) 165.4, 155.0(d, J=64.4 Hz), 152.3, 133.2, 129.4, 123.3 (q, J=287.3 Hz) 118.5 114.2(d, J=4.3 Hz), 112.6, 110.1 (d, J=4.7 Hz), 70.9(q, J=33.2 Hz). HRSM((EI+) m/z calc. for (C11H5ClF4O3): 295.9863(M+), found 295.9875(M+).

reactant | ethyl 6-chloro-5-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 3.4 mmol, 1.1 g | C(C)C1(OC2=CC=C(C(=C2C=C1C(=O)O)F)Cl)C(F)(F)F | C13H9ClF4O3
reactant | lithium hydroxide hydrate | 17 mmol, 0.72 g | O.[OH-].[Li+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 6-Chloro-5-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.3 g | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)O)F | C11H5ClF4O3
